US05091432
0.300 g (0.9111 mmol) of 3-(1,6-dihydro-6-oxo-9H-purin-9-yl)propanoic acid, 4-nitrophenyl ester (AIT-0081) was placed into a 10 ml round bottom flask with 2 ml dry dimethylsulfoxide and a magnetic stirring bar. 150 mg of (+ -)-ethylnipecotate was added to the solution. The solution immediately turned green and was stirred at room temperature (25°) for two hours. The dimethylsulfoxide was removed under reduced pressure with gentle heating. 10 ml of ether was added to the yellow residue and the solid was broken up with a spatula. The solution was stirred until a fine white homogeneous precipitate was obtained. The solution was filtered and the solid washed with ether to yield 285 mg of 1-[3-(1,6-dihydro-6-oxo-9H-purin-9-yl)-1-oxopropyl]-3-piperidinecarboxylic acid, ethyl ester (AIT-0103) as a white solid. Yield: 90%. m.p.: 171°-175°.

reactant | 3-(1,6-dihydro-6-oxo-9H-purin-9-yl)propanoic acid, 4-nitrophenyl ester | 0.9111 mmol, 0.300 g | O=C1C=2N=CN(C2N=CN1)CCC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C14H11N5O5
reactant | (+ -)-ethylnipecotate | 150 mg | C(C)OC(C1CNCCC1)=O | C8H15NO2
solvent | dimethylsulfoxide | 2 ml | CS(=O)C | C2H6OS
product | 1-[3-(1,6-dihydro-6-oxo-9H-purin-9-yl)-1-oxopropyl]-3-piperidinecarboxylic acid, ethyl ester | 285 mg, Yield: 90% | O=C1C=2N=CN(C2N=CN1)CCC(=O)N1CC(CCC1)C(=O)OCC | C16H21N5O4
